US07494984B2
1-Butyl-4,5-dihydro-1H-imidazol-2-amine hydrobromide
Reaction of N-butylethylenediamine (10.7 g, 0.092 mol) with cyanogen bromide (9.76 g, 0.092 mol) as described in the preparation of intermediate 6 gave 11.77 g (57% yield) of the title compound as white crystals (ether-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm): 0.96 (3H, t, J=7.2 Hz, CH3), 1.41 (2H, m, CH2), 1.60 (2H, m, CH2), 3.52 (2H, t, J=7.3 Hz, CH2), 3.64-3.74 (4H, m, 2×CH2), 7.58 and 7.7 (broad s, NH). MS (ESI+) m/e 142 [M+H+].

reactant | N-butylethylenediamine | 0.092 mol, 10.7 g | C(CCC)NCCN | C6H16N2
reactant | cyanogen bromide | 0.092 mol, 9.76 g | N#CBr | CBrN
product | 1-Butyl-4,5-dihydro-1H-imidazol-2-amine hydrobromide | 11.77 g, 57% yield | Br.C(CCC)N1C(=NCC1)N | InChI=1S/C7H15N3.BrH/c1-2-3-5-10-6-4-9-7(10)8;/h2-6H2,1H3,(H2,8,9);1H
